US08207178B2
Step B: 4-(4-(4-bromo-2,6-dimethylphenoxy)-6-methyl-5-nitropyrimidin-2-ylamino)benzonitrile
A mixture of 4-(4-bromo-2,6-dimethylphenoxy)-2-chloro-6-methyl-5-nitropyrimidine (22.0 g, 59.3 mmol), 4-aminobenzonitrile (7.7 g. 65.2 mmol) and pyridine (4.8 ml, 59.3 mmol) in THF (300 ml) was heated to 80° C. for 10 hours. The reaction mixture was dissolved in methanol, washed with brine and extracted with ethyl acetate. The organic layer was washed twice with brine, dried over MgSO4 and concentrated to dryness. The solid was washed with a mixture of hexane:ethyl acetate (80:20) before filtration. After filtration, the solid was washed again with methanol. The filtrate was concentrated again until dryness. The second round of precipitation was collected following the same procedure. The operation was repeated until total product was recovered. The combined solids were recrystallized from acetone to obtain the title compound (22.72 g, 50 mmol, 84%). 1H NMR (CDCl3, 400 MHz) δ 2.14 (s, 6H), 2.60 (s, 3H), 7.22 (d, J=8.8 Hz, 2H), 7.26 (d, J=8.9, 2H), 7.27 (s, 2H), 12.75 (bs, 1H).

reactant | 4-(4-bromo-2,6-dimethylphenoxy)-2-chloro-6-methyl-5-nitropyrimidine | 59.3 mmol, 22.0 g | BrC1=CC(=C(OC2=NC(=NC(=C2[N+](=O)[O-])C)Cl)C(=C1)C)C | C13H11BrClN3O3
reactant | 4-aminobenzonitrile | 65.2 mmol, 7.7 g | NC1=CC=C(C#N)C=C1 | C7H6N2
reactant | pyridine | 59.3 mmol, 4.8 ml | N1=CC=CC=C1 | C5H5N
solvent | THF | 300 ml | C1CCOC1 | C4H8O
solvent | methanol | CO | CH4O
product | 4-(4-(4-bromo-2,6-dimethylphenoxy)-6-methyl-5-nitropyrimidin-2-ylamino)benzonitrile | 50 mmol, 22.72 g, 84% | BrC1=CC(=C(OC2=NC(=NC(=C2[N+](=O)[O-])C)NC2=CC=C(C#N)C=C2)C(=C1)C)C | C20H16BrN5O3
